US07935699B2
To a solution containing 3-(3-nitro-pyrazol-1-yl)-propan-1-ol (72 mg, 0.42 mmol) in tetrahydrofuran (2 mL), anhydrous hydrazine (100 μL) was added to the clear solution. Raney nickel (˜100 mg washed 3 times with 5 mL of anhydrous tetrahydrofuran) was then added in tetrahydrofuran (300 μL). Gas evolved from the mixture and the reaction was allowed to proceed for 5 min, after which time the raney nickel was removed by filtration through a celite plug. The solvent was removed in vacuo to afford 3-(3-amino-pyrazol-1-yl)-propan-1-ol as a yellow oil, which was then immediately used in the next step with no further purification.

reactant | 3-(3-nitro-pyrazol-1-yl)-propan-1-ol | 0.42 mmol, 72 mg | [N+](=O)([O-])C1=NN(C=C1)CCCO | C6H9N3O3
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | hydrazine | 100 μL | NN | H4N2
catalyst | Raney nickel | 5 mL, ˜100 mg | [Ni] | Ni
solvent | tetrahydrofuran | 300 μL | O1CCCC1 | C4H8O
product | 3-(3-amino-pyrazol-1-yl)-propan-1-ol | NC1=NN(C=C1)CCCO | C6H11N3O
